US07851473B2
(1) 2,2,2-Trichloroethyl (4-bromo-1-methyl-1H-pyrazol-5-yl)carbamate
To a solution of 4-bromo-1-methyl-1H-pyrazol-5-amine (500 mg, 2.84 mmol) and pyridine (0.270 ml, 3.41 mmol) in tetrahydrofuran (9.5 ml) was added 2,2,2-trichloroethyl chloroformate (0.472 ml, 3.41 mmol) with ice-cooling, and the mixture was stirred at room temperature for 2 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give 289 mg (28.9%) of the desired product as an oil.

reactant | 4-bromo-1-methyl-1H-pyrazol-5-amine | 2.84 mmol, 500 mg | BrC=1C=NN(C1N)C | C4H6BrN3
reactant | pyridine | 3.41 mmol, 0.270 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 3.41 mmol, 0.472 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 9.5 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl (4-bromo-1-methyl-1H-pyrazol-5-yl)carbamate | 289 mg, 28.9% | BrC=1C=NN(C1NC(OCC(Cl)(Cl)Cl)=O)C | C7H7BrCl3N3O2
